US09334245B2
A. (2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid (R7=H)
5-Chloro-2H-1,2,4-triazole-3-carboxylic acid (51.8 mg, 351 μmol, 1.5 eq.) and HATU (133 mg, 351 μmol, 1.5 eq.) were dissolved in DMF (3.0 mL), and the resulting mixture was stirred for 5 minutes to yield the activated acid. (2S,4S)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-pentanoic acid ethyl ester (100 mg, 234 μmol, 1.0 eq.) was dissolved in MeCN (2 mL) followed by the addition of 4 M of HCl in dioxane (0.5 mL, 2.0 mmol). The mixture was stirred at room temperature for 2 hours, then concentrated to dryness. The activated acid was added and the resulting mixture was stirred for 2 minutes, followed by the addition of DIPEA (81.5 μL). The mixture was stirred at room temperature for 1 hour. The reaction was quenched with water, and the solvent removed under vacuum. The dried solid was dissolved in EtOH (2.0 mL) followed by the addition of 1.0 M of LiOH in water (2.0 mL). The mixture was stirred at room temperature for 3 hours, and the reaction was quenched with AcOH. The solvent was removed under vacuum, the residue was dissolved in AcOH/MeCN and purified by preparative HPLC. The clean fractions were combined and lyophilized to yield the title compound (61 mg, 95% purity). MS m/z [M+H]+ calc'd for C21H21ClN4O4, 429.13. found 429.4.

reactant | 5-Chloro-2H-1,2,4-triazole-3-carboxylic acid | 351 μmol, 51.8 mg, 1.5 eq. | ClC=1N=C(NN1)C(=O)O | C3H2ClN3O2
reactant | HATU | 351 μmol, 133 mg, 1.5 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4S)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-pentanoic acid ethyl ester | 234 μmol, 100 mg, 1.0 eq. | C(C)OC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)CO)=O | C25H33NO5
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 2.0 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | MeCN | 2 mL | CC#N | C2H3N
product | (2S,4S)-5-Biphenyl-4-yl-4-[(5-chloro-2H-[1,2,4]-triazole-3-carbonyl)-amino]-2-hydroxymethyl-pentanoic acid | 61 mg, 95% | C1(=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)CO)NC(=O)C=1NN=C(N1)Cl)C1=CC=CC=C1 | C21H21ClN4O4
